US05958376
a. 5-Amino-2,4,6-triiodo-N,N'-bis(2,3-diacetoxypropyl)-isophthalamide
5-Amino-2,4,6-triiodo-N,N'-bis(2,3-dihydroxypropyl)-isophthalamide (14.08 g, 0.02 mol), which had been prepared according to GB-A-1548594 was suspended in pyridine (200 ml) and acetic anhydride (57.1 g, 0.56 mol) was added dropwise with stirring and cooling. After stirring overnight, the mixture was poured into ethyl acetate (300 ml) and 20% aqueous HCl (200 ml). After extraction, the organic phase was washed with 2 M aqueous HCl (20 ml), brine (70 ml), dried (Na2SO4) and evaporated. Yield 17.4 g (100%). The crude material was used without further purification, since analysis by HPLC and 1H NMR indicated, that the product was >97% pure.

reactant | 5-Amino-2,4,6-triiodo-N,N'-bis(2,3-dihydroxypropyl)-isophthalamide | 0.02 mol, 14.08 g | NC=1C(=C(C(=C(C(=O)NCC(CO)O)C1I)I)C(=O)NCC(CO)O)I | C14H18I3N3O6
reactant | acetic anhydride | 0.56 mol, 57.1 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
reactant | HCl | 200 ml | Cl | ClH
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 5-Amino-2,4,6-triiodo-N,N'-bis(2,3-diacetoxypropyl)-isophthalamide | NC=1C(=C(C(=C(C(=O)NCC(COC(C)=O)OC(C)=O)C1I)I)C(=O)NCC(COC(C)=O)OC(C)=O)I | C22H26I3N3O10
